US05624935
3-Amino-2-methylamino-6-phenylpyridine
A procedure similar to that described in Example 6 was repeated, except that 5.7 g of 2-methylamino-3-nitro-6-phenylpyridine (prepared as described in Preparation 108) were hydrogenated in 200 ml of a 1:1 by volume mixture of ethanol and 1,4-dioxane in the presence of 1.14 g of 10% w/w palladium-on-charcoal. After working up the product as described in Example 6, 4.9 g of the title compound having Rf=0.08 (on silica gel thin layer chromatography using a 1:5 by volume mixture of ethyl acetate and hexane as the developing solvent) were obtained.

reactant | 2-methylamino-3-nitro-6-phenylpyridine | 5.7 g | CNC1=NC(=CC=C1[N+](=O)[O-])C1=CC=CC=C1 | C12H11N3O2
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-Amino-2-methylamino-6-phenylpyridine | 4.9 g | NC=1C(=NC(=CC1)C1=CC=CC=C1)NC | C12H13N3
